US05041679
15.51 Grams of 6-(4-chlorophenylthio)-4-hydroxy-2-hexanone was dissolved in 100 ml of toluene, and 0.92 g of oxalic acid was added thereto. The resulting mixture was refluxed for 4 hours with stirring. After having been cooled, the mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and then saturated aqueous sodium chloride solution. Then the mixture was dried over anhydrous magnesium sulfate. Removing the solvent from the mixture under reduced pressure gave 14.22 g of 6-(4-chlorophenyl-thio)-3-hexen-2-one. (trans : cis =3.1 : 1) (purity: 98.0%). The yield was 96.6%. A purified product was obtained by column chromatography. The purified product had an nD24 of 1.5953.

reactant | 6-(4-chlorophenylthio)-4-hydroxy-2-hexanone | ClC1=CC=C(C=C1)SCCC(CC(C)=O)O | C12H15ClO2S
reactant | oxalic acid | 0.92 g | C(C(=O)O)(=O)O | C2H2O4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-chlorophenyl-thio)-3-hexen-2-one | 14.22 g, yield was 96.6% | ClC1=CC=C(C=C1)SCCC=CC(C)=O | C12H13ClOS
